US07714138B2
C) tert-Butyl 4-(2-acetamidopyridin-4-yloxy)-3-fluorophenylcarbamate
A tert-butyl 4-(2-aminopyridin-4-yloxy)-3-fluorophenylcarbamate (150 mg, 0.47 mmol) in anhydrous pyridine (0.5 mL) was cooled to 10° C. and treated with acetyl chloride (33 μL, 0.47 mmol) and the mixture stirred for 45 min. An additional portion of acetyl chloride (16 μL, 0.24 mmol) was added to the reaction and stirring continued for 25 min. The mixture was diluted with EtOAc (20 mL), washed with brine, dried (MgSO4) and concentrated under vacuum to give the title compound (115 mg, 68%). 1H NMR (DMSO-d6) δ 10.55 (s, 1H), 9.71 (s, 1H), 8.16 (d, 1H, J=5.5 Hz), 7.63-7.55 (m, 2H), 7.29-7.23 (m, 2H), 6.68-6.63 (m, 1H), 2.02 (s, 3H), 1.48 (s, 9H); MS(ESI+): m/z 362.22 (M+H)+.

reactant | tert-butyl 4-(2-aminopyridin-4-yloxy)-3-fluorophenylcarbamate | 0.47 mmol, 150 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C16H18FN3O3
reactant | acetyl chloride | 0.47 mmol, 33 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.24 mmol, 16 μL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-(2-acetamidopyridin-4-yloxy)-3-fluorophenylcarbamate | 115 mg, 68% | C(C)(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C18H20FN3O4
